### ISSUE TITLE
isDefEq fails in presence of unassignable metavariable

### ISSUE THREAD

**Issue by kmill** [leanprover/lean4#3293]
### Description

In the unification problem `?a =?= (fun x => ?a) b`, when `?a` is not assignable then unification fails.

### Context

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/.60isDefEq.60.20and.20non-assigneble.20metavariables/near/420586076), reported by Jovan Gerbscheid.

### Steps to Reproduce

Expected behavior: the following test returns `true`. Actual behavior: it returns `false`.
```lean
import Lean

open Lean Meta

elab "foo" : term => do
  let a ← mkFreshExprSyntheticOpaqueMVar (mkConst ``Nat)
  let c := mkApp (mkLambda `x .default (mkConst ``Nat) a) (mkConst ``Nat.zero)
  return toExpr <| ← isExprDefEq a c

set_option trace.Meta.isDefEq true
#check foo
```

This can be triggered with metacontext depth as well:
```lean
elab "foo" : term => do
  let a ← mkFreshExprMVar (mkConst ``Nat)
  let c := mkApp (mkLambda `x .default (mkConst ``Nat) a) (mkConst ``Nat.zero)
  return toExpr <| ← withNewMCtxDepth do isExprDefEq a c
```

### Additional information

The following test helps localize the issue to `isDefEqQuickOther` returning `LBool.false`. 
```lean
import Lean

open Lean Meta

elab "foo" : term => do
  let a ← mkFreshExprSyntheticOpaqueMVar (mkConst ``Nat)
  let c := mkApp (mkLambda `x .default (mkConst ``Nat) a) (mkConst ``Nat.zero)
  withTheReader Meta.Context (fun c => {c with config := {c.config with isDefEqStuckEx := true}}) do
  return toExpr <| ← isExprDefEq a c

set_option trace.Meta.isDefEq true
set_option trace.Meta.isDefEq.stuck true
#check foo
-- ...
-- [] ?m.654 [nonassignable] =?= (fun x ↦ ?m.654) Nat.zero [nonassignable] 
-- [stuck] ?m.654 =?= (fun x ↦ ?m.654) Nat.zero
```

### Versions

```lean
#eval Lean.versionString
-- "4.6.0-rc1"
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by leodemoura** [comment]
@kmill Could you please provide extra motivation for this issue? Moreover, how far should we go before failing? Suppose we have `?a =?= t` and `t` is a term that after reduces (after a lot of work) to `?a` or an assignable metavariable. Unless there is a concrete use-case, I am inclined to close this issue.

**Comment by kmill** [comment]
Somehow I never saw your message @leodemoura. The motivation is that users assume that unassignable mvars are like constants/fvars, but, as this example shows, they are not. It would be nice to have some guidance on what an unassignable mvar is, if not a term that is temporarily treated like a constant/fvar.

With your question about `?a =?= t`, one can ask the same question about how for to go when it is `v =?= t` with `v` an cdecl fvar — one has to do whnf on `t`, right?

I don't have an real-world example of this issue off-hand, but the following artificial example fails because `?x` is not assignable in the `isDefEq` check for the `eq_refl` tactic.
```lean
example : 2 = 2 := by
  have : @Eq Nat ?x ((fun i : Bool => ?x) true) := by rfl
  -- "The rfl tactic failed."
  sorry
  rfl
```

In the course of making an example, I found that it was almost impossible to create the hypothesis `?x = x` when `x := ?x`:
```lean
example : True := by
  let x : Nat := ?x
  have : ?x = x := by
    -- rfl -- fails
    -- change ?x = ?x -- fails
    -- conv => rhs; change ?x -- fails
    dsimp only [x]
```

I also have another artificial example using `mkAppM`, which uses `withNewMCtxDepth` internally. Many tactics use `mkAppM`, or otherwise use `withNewMCtxDepth` to do `isDefEq` testing without side effects (which is an indicated use of `withNewMCtxDepth` in the `isDefEq` docstring). This example is meant be a representative tactic using basic interfaces.
```lean
theorem eq_of_eq {α : Sort _} (lhs rhs : α) (h : lhs = rhs) : lhs = rhs := h

open Lean Elab Tactic Meta in
elab "prove" : tactic =>
  closeMainGoalUsing `prove (checkUnassigned := false) fun tgt => do
    let some (_, lhs, rhs) := tgt.eq? | failure
    let pf ← mkAppM ``eq_of_eq #[lhs, rhs, ← mkEqRefl lhs]
    return pf

example : 2 = 2 := by
  have : @Eq Nat ?x ((fun i : Bool => ?x) true) := by
    prove
  /-~~~~~
  foo.lean:28:4
  application type mismatch
    eq_of_eq ?x ((fun i ↦ ?x) true) (Eq.refl ?x)
  argument
    Eq.refl ?x
  has type
    ?x = ?x : Prop
  but is expected to have type
    ?x = (fun i ↦ ?x) true : Prop
  -/
  sorry
  rfl
```

**Comment by kmill** [comment]
(I'm not sure the correct protocol here, but I'll reopen the issue to make sure these examples get some consideration.)
